US07129239B2
Preparation of Intermediate 1-[9-(4-Chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purin-6-yl]-ethanone (I-(15A-1)a)
A solution of 6-chloro-9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine I-(1A-1)d (202 mg, 0.49 mmol) and tetrakis(triphenylphosphine) palladium(0) (60 mg, 0.049 mmol) in dimethylformamide (1.5 ml) was degassed and to it was added tributyl-(1-ethoxyvinyl)-stannane (250 μl, 0.74 mmol). The reaction mixture was heated to 100° C. until completed as shown by TLC. A solution of 2:1 of H2O/conc. HCl (1.5 ml) was added to the reaction mixture and the heating continued for 1 hour. The reaction was diluted with ethyl acetate and washed with water. The organic layers were combined, dried (Na2SO4), filtered, and concentrated to dryness. The crude material was purified via TLC preparative plate using 30% ethyl acetate/hexanes as the solvent to afford the desired product I-(15A-1)a (50 mg, 25%): +ESI MS (M+1) 417.3; 1H NMR (400 MHz, CDCl3) δ 9.11 (s, 1H), 7.58 9 (d, J=8.7 Hz, 1H), 7.43–7.30 (m, 4H), 7.21 (d, J=8.7 Hz, 2H), 2.92 (s, 3H).

reactant | 6-chloro-9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine | 0.49 mmol, 202 mg | ClC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C17H8Cl4N4
reactant | tributyl-(1-ethoxyvinyl)-stannane | 0.74 mmol, 250 μl | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | H2O | O | H2O
reactant | HCl | 1.5 ml | Cl | ClH
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.049 mmol, 60 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-[9-(4-Chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purin-6-yl]-ethanone | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=C(C=C1)Cl)Cl)C(C)=O | C19H11Cl3N4O
